US08283354B2
(R)-Tetrahydro-furan-2-carboxylic acid (1-benzyl-piperidin-4-yl)-amide (128 g, 444 mmol) was dissolved in 300 mL ethanol and 50 mL acetic acid. Palladium on activated carbon (5 g) was added. A hydrogen pressure of 5 bars was applied, and hydrogenation was continued until no more hydrogen was consumed (about 5 days). The suspension was filtered through Celite, and the filtrate was evaporated to dryness under reduced pressure. The residue and oxalic acid (50 g, 555 mmol) were suspended in 500 mL 2-propanol and heated to dissolve the solids. Upon cooling, the oxalate salt of R-tetrahydro-furan-2-carboxylic acid piperidin-4-ylamide crystallized and was collected by filtration to yield (R)-Tetrahydro-furan-2-carboxylic acid piperidin-4-ylamide as an oxalate salt (99.0 g, 77%) as an off-white solid. 1H-NMR (300 MHz, DMSO-d6): δ 7.84 (d, J=7.8 Hz, 1H), 5.90 (bs, 2H), 4.18-4.14 (m, 1H), 3.89-3.67 (m, 3H), 3.25-3.20 (m, 2H), 2.94-2.71 (m, 2H), 2.13-2.00 (m, 1H), 1.56-1.58 (m, 6H) ppm.

reactant | (R)-Tetrahydro-furan-2-carboxylic acid (1-benzyl-piperidin-4-yl)-amide | 444 mmol, 128 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(=O)[C@@H]1OCCC1 | C17H24N2O2
reactant | hydrogen | [H][H] | H2
reactant | oxalic acid | 555 mmol, 50 g | C(C(=O)O)(=O)O | C2H2O4
solvent | ethanol | 300 mL | C(C)O | C2H6O
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
catalyst | Palladium on activated carbon | 5 g | [Pd] | Pd
solvent | 2-propanol | 500 mL | CC(C)O | C3H8O
product | (R)-Tetrahydro-furan-2-carboxylic acid piperidin-4-ylamide | N1CCC(CC1)NC(=O)[C@@H]1OCCC1 | C10H18N2O2
